US04707296
To a solution of 3-fluoro-4-cyanophenol (1.5 g, 11 mmols) dissolved in dry pyridine (5 cc) was added a solution of 4-(β-ethoxyethoxy)benzoic acid chloride (2.5 g, 11 mmols) dissolved in dry toluene (10 cc), followed by heating the mixture with stirring at 60° C. for 3 hours, thereafter adding it to water (100 cc), washing the resulting separated toluene layer with 6N-hydrochloric acid, 2N-NaOH aqueous solution and water, in this order, drying over anhydrous sodium sulfate, distilling off toluene from the toluene layer and recrystallizing the resulting oily residue from ethyl alcohol (10 cc) to obtain the objective 3-fluoro-4-cyanophenyl 4-(β-ethoxyethoxy)benzoate (2.1 g) (yield: 64%).

reactant | 3-fluoro-4-cyanophenol | 11 mmols, 1.5 g | FC=1C=C(C=CC1C#N)O | C7H4FNO
reactant | 4-(β-ethoxyethoxy)benzoic acid chloride | 11 mmols, 2.5 g | C(C)OCCOC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO3
reactant | water | 100 cc | O | H2O
solvent | pyridine | 5 cc | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 cc | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-cyanophenyl 4-(β-ethoxyethoxy)benzoate | 2.1 g, yield: 64% | C(C)OCCOC1=CC=C(C(=O)OC2=CC(=C(C=C2)C#N)F)C=C1 | C18H16FNO4
